US06569851B1
Preparation of 5-{N′-(N-Acetyl-N-phenylglycinyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one
Following one or more of the general procedures outlined above, using acetyl-N-phenylglycine and 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one, as described in Example 7-B, the title compound was prepared. The molecular weight as determined by mass spectrometry (FD) was: 485 (M+H).

reactant | acetyl-N-phenylglycine | C(C)(=O)N(CC(=O)O)C1=CC=CC=C1 | C10H11NO3
reactant | 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N | C18H19N3O2
product | 5-{N′-(N-Acetyl-N-phenylglycinyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | C(C)(=O)N(CC(=O)N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N)C2=CC=CC=C2 | C28H28N4O4
